US06100283
A mixture of 2,3-diaminobenzoic acid (0.5 g, 3.29 mmol) and formic acid (405 μl, 9.87 mmol) in hydrochloric acid (4M, 10 ml) was heated under reflux for one hour. The precipitate which formed on cooling was collected, redissolved in boiling methanol, and decolorised with activated charcoal. Evaporation of the solvent gave benzoxazole-4-carboxylic acid as a white powder (407.9 mg, 77%)

reactant | 2,3-diaminobenzoic acid | 3.29 mmol, 0.5 g | NC1=C(C(=O)O)C=CC=C1N | C7H8N2O2
reactant | formic acid | 9.87 mmol, 405 μl | C(=O)O | CH2O2
solvent | hydrochloric acid | 4M, 10 ml | Cl | ClH
product | benzoxazole-4-carboxylic acid | 407.9 mg, 77% | O1C=NC=2C1=CC=CC2C(=O)O | C8H5NO3
